US07842688B2
d) 2-(2,5-Difluorophenoxy)ethanol
The solution of 1.80 g of [2-(2,5-difluorophenoxy)ethoxy]triisopropylsilane and 23 ml of tetrahydrofuran is admixed with 4.37 ml of tetrabutylammonium fluoride solution (1M in tetrahydrofuran) and stirred at 60° C. over 1 hour. The reaction mixture is cooled, poured onto water (70 ml) and extracted with tert-butyl methyl ether (2×70 ml). The organic phases are washed with brine (1×50 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.19 (2:1 EtOAc-heptane); Rt=3.17.

reactant | [2-(2,5-difluorophenoxy)ethoxy]triisopropylsilane | 1.80 g | FC1=C(OCCO[Si](C(C)C)(C(C)C)C(C)C)C=C(C=C1)F | C17H28F2O2Si
reactant | tetrabutylammonium fluoride | 1M, 4.37 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 23 ml | O1CCCC1 | C4H8O
product | 2-(2,5-Difluorophenoxy)ethanol | FC1=C(OCCO)C=C(C=C1)F | C8H8F2O2
